US06403601B1
(a) 3-Hydroxy-1-naphthalenecarboxylic acid
Methyl 3-methoxy-1-naphthalenecarboxylate (Bin Ye and Terrence R. Burke, Tetrahedron, 52, 9963-9970 (1996)) (8.13 g, 37.6 mmol) and pyridinium hydrochloride (217 g, 1.88 mol) was heated to 200° C. for 30 min. After cooling to room temperature, 1N HCl was added and the precipitate was filtered and washed with water to give the title compound (6.67 g, 94%) as a yellow solid. 1H-NMR (DMSO-d6): 13.16 (s, 1H), 10.03 (s, 1H), 8.73 (d, 1H), 7.78 (d, 1H), 7.72 (d, 1H), 7.37 (m, 3H); MS m/z 187 (M−H).

reactant | Methyl 3-methoxy-1-naphthalenecarboxylate | 37.6 mmol, 8.13 g | COC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C13H12O3
reactant | pyridinium hydrochloride | 1.88 mol, 217 g | Cl.[NH+]1=CC=CC=C1
reactant | HCl | 1N | Cl | ClH
product | 3-Hydroxy-1-naphthalenecarboxylic acid | 6.67 g, 94% | OC=1C=C(C2=CC=CC=C2C1)C(=O)O | C11H8O3
